US07635701B2
To a solution of 2-chloro-4-trifluoromethyl-pyrimidin-5-carbonyl chloride (750 mg, ex Maybridge) in dichloromethane (15 ml) at −400 was added dropwise over 30 minutes a solution of cyclohexanemethanamine (0.35 ml, ex Lancaster) and triethylamine (0.41 ml) in dichloromethane (15 ml). Dichloromethane was removed under reduced pressure and ethyl acetate (20 ml) added. The solution was washed sequentially with water, 5% sodium bicarbonate solution and water, dried (MgSO4), evaporated and triturated with ether:hexane to afford 2-chloro-trifluoromethyl-pyrimidine-5-carboxylic acid cyclohexylmethyl-amide (666 mg).

reactant | 2-chloro-4-trifluoromethyl-pyrimidin-5-carbonyl chloride | 750 mg | ClC1=NC=C(C(=N1)C(F)(F)F)C(=O)Cl | C6HCl2F3N2O
reactant | cyclohexanemethanamine | 0.35 ml | C1(CCCCC1)CN | C7H15N
reactant | triethylamine | 0.41 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | 2-chloro-trifluoromethyl-pyrimidine-5-carboxylic acid cyclohexylmethyl-amide | 666 mg | C1(CCCCC1)CNC(=O)C=1C(=NC(=NC1)Cl)C(F)(F)F | C13H15ClF3N3O
